US08420655B2
5-{1-tert-Butyl-2-[5-fluoro-2-(5-methyl-[1,2,4]oxadiazol-3-yl)-phenyl]-1H-benzimidazol-5-yl}-pyrimidin-2-ylamine
To a solution of acetic acid (52 mg, 0.86 mmol) and HATU (326 mg, 0.86 mmol) in DMF (4 mL) is added triethylamine (0.12 mL, 0.86 mmol). The reaction mixture is stirred at room temperature for 10 minutes and 2-[5-(2-amino-pyrimidin-5-yl)-1-tert-butyl-1H-benzimidazol-2-yl]-4-fluoro-N-hydroxy-benzamidine (300 mg, 0.72 mmol) is added. The reaction mixture is stirred at room temperature for 2 hours then warmed to 80° C. and stirred for 15 hours. The reaction mixture is cooled to room temperature and concentrated in vacuo. EtOAc (30 mL) is added and the organics washed sequentially with saturated NaHCO3 solution (30 mL) and H2O (30 mL) then dried (Na2SO4), filtered and concentrated. Purification via flash chromatography (10 g silica gel, 1.5-3% MeOH/CH2Cl2) affords the title compound (43 mg, 10%). LCMS (ESMS): m/z 444.32 (M++1)

reactant | acetic acid | 0.86 mmol, 52 mg | C(C)(=O)O | C2H4O2
reactant | HATU | 0.86 mmol, 326 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.86 mmol, 0.12 mL | C(C)N(CC)CC | C6H15N
reactant | 2-[5-(2-amino-pyrimidin-5-yl)-1-tert-butyl-1H-benzimidazol-2-yl]-4-fluoro-N-hydroxy-benzamidine | 0.72 mmol, 300 mg | NC1=NC=C(C=N1)C1=CC2=C(N(C(=N2)C2=C(C(=N)NO)C=CC(=C2)F)C(C)(C)C)C=C1 | C22H22FN7O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 5-{1-tert-Butyl-2-[5-fluoro-2-(5-methyl-[1,2,4]oxadiazol-3-yl)-phenyl]-1H-benzimidazol-5-yl}-pyrimidin-2-ylamine | 43 mg, 10% | C(C)(C)(C)N1C(=NC2=C1C=CC(=C2)C=2C=NC(=NC2)N)C2=C(C=CC(=C2)F)C2=NOC(=N2)C | C24H22FN7O
